US05631257
1-Allyl-1-methyl-4-(6-methoxybenzoxazol-2-yl)piperazinium iodide
A 50 mg portion of 2-(4-methyl-1-piperazinyl)-6-methoxybenzoxazole was dissolved in 5 ml of THF. Under cooling with ice, 0.03 ml of allyl iodide was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature followed by reflux for 16 hours under heating. The reaction mixture was concentrated under a reduced pressure, and the resulting residue was dissolved in 100 ml of ethyl acetate, extracted twice with 100 ml of water and then lyophilized to obtain 73 mg of the title compound.

reactant | 2-(4-methyl-1-piperazinyl)-6-methoxybenzoxazole | CN1CCN(CC1)C=1OC2=C(N1)C=CC(=C2)OC | C13H17N3O2
reactant | allyl iodide | 0.03 ml | C(C=C)I | C3H5I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-Allyl-1-methyl-4-(6-methoxybenzoxazol-2-yl)piperazinium iodide | 73 mg | [I-].C(C=C)[N+]1(CCN(CC1)C=1OC2=C(N1)C=CC(=C2)OC)C | InChI=1S/C16H22N3O2.HI/c1-4-9-19(2)10-7-18(8-11-19)16-17-14-6-5-13(20-3)12-15(14)21-16;/h4-6,12H,1,7-11H2,2-3H3;1H/q+1;/p-1
